### PR TITLE
feat(ClassicalMechanics): add damped harmonic oscillator solutions

### PR DESCRIPTION
**Pull request by FloWsnr**
I guys. I am currently learning Lean and wanted to practice working with an actual Lean repository. Feel free to call out any issues or just reject the PR.

## Summary

Adds a fuller formalization of the classical damped harmonic oscillator mirroring the organization of the undamped oscillator.

This PR:
- refactors `structure DampedHarmonicOscillator extends HarmonicOscillator`
- defines the damped equation of motion, force, energy dissipation rate, and Newton's-law equivalence
- adds damping regime definitions and lemmas for underdamped, critically damped, overdamped, and undamped cases
- adds explicit regime-specific trajectories and proves that they satisfy the equation of motion
- imports the new solution module through `Physlib.lean`

## Details

- I used `structure DampedHarmonicOscillator extends HarmonicOscillator` to make conversion between both easier.
- I refactored the `DampedHarmonicOscillator` to use the same `xₜ : Time → EuclideanSpace ℝ (Fin 1)` vector space as the `HarmonicOscillator`. This way, the code looks more similar and some lemmas can be shared.

The new `Solution` module separates each trajectory into an exponential decay factor and a regime-specific base trajectory:
- trigonometric base for the underdamped case
- polynomial base for the critically damped case
- hyperbolic base for the overdamped case
- It also includes shared derivative lemmas for exponentially decaying trajectories to avoid duplicating the equation-of-motion
proof.

### CODE REVIEW

**Comment by jstoobysmith** [comment]
Awesome! Many thanks, hopefully I should get time tomorrow to go through this (if someone doesn't beat me to it).

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 1]
```diff
@@ -1,20 +1,20 @@
 /-
-Copyright (c) 2025 Nicola Bernini. All rights reserved.
+Copyright (c) 2026 Nicola Bernini. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Nicola Bernini
+Authors: Nicola Bernini, Joseph Tooby-Smith, Lode Vermeulen, Florian Wiesner
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Myself and Lode shouldn't be in this author list.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 2]
```diff
@@ -63,195 +77,176 @@ References for the damped harmonic oscillator include:
...
 
-## B. The natural angular frequency (placeholder)
-
-The natural angular frequency ω₀ = √(k/m) will be defined here.
-
--/
-
-/-- The natural (undamped) angular frequency of the oscillator, ω₀ = √(k/m). -/
-noncomputable def ω₀ : ℝ := √(S.k / S.m)
+The mass/spring nonzero lemmas, the natural angular frequency, and the undamped energy API
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:121]: Maybe put in it's own comment, not shared with `## B.` below.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 3]
```diff
@@ -63,195 +77,176 @@ References for the damped harmonic oscillator include:
...
+/-- The equation of motion for the damped harmonic oscillator:
+`m ẍ + γ ẋ + k x = 0`. -/
+noncomputable def EquationOfMotion (xₜ : Time → EuclideanSpace ℝ (Fin 1)) : Prop :=
   ∀ t : Time,
-    S.m * (Time.deriv (Time.deriv x) t) +
-    S.γ * (Time.deriv x t) +
-    S.k * x t = 0
+    S.m • ∂ₜ (∂ₜ xₜ) t +
+    S.γ • ∂ₜ xₜ t +
+    S.k • xₜ t = 0
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: put all on the same line?

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 4]
```diff
@@ -63,195 +77,176 @@ References for the damped harmonic oscillator include:
...
+The damped oscillator inherits the mechanical energy from the undamped harmonic oscillator.
+Along a solution of the damped equation of motion, that energy decreases at a rate
+proportional to `-γ ‖ẋ‖^2`.
 
-If `x` satisfies the equation of motion
+-/
 
-  S.m * x¨ + S.γ * ẋ + S.k * x = 0,
+/-- The instantaneous energy dissipation rate along a trajectory. -/
+noncomputable def energyDissipationRate (xₜ : Time → EuclideanSpace ℝ (Fin 1)) : Time → ℝ :=
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Do we actually need this definition?

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 5]
```diff
@@ -63,195 +77,176 @@ References for the damped harmonic oscillator include:
...
+  rw [hforce]
+  simp [inner_smul_right]
+
+/-- If `γ > 0` and the velocity is nonzero at a time, the mechanical energy is strictly
+decreasing at that time. -/
+lemma energy_not_conserved (xₜ : Time → EuclideanSpace ℝ (Fin 1)) (t : Time)
+    (h1 : S.EquationOfMotion xₜ)
+    (hx : ContDiff ℝ ∞ xₜ)
+    (hdx : ∂ₜ xₜ t ≠ 0)
+    (hγ : 0 < S.γ) :
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: These can go on the same lines.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 6]
```diff
@@ -63,195 +77,176 @@ References for the damped harmonic oscillator include:
...
 
-  if `x` satisfies `S.equationOfMotion x`, then
+-/
 
-  Time.deriv (S.energy x) t = - S.γ * (Time.deriv x t)^2,
+noncomputable def force (S : DampedHarmonicOscillator)
+    (xₜ : Time → EuclideanSpace ℝ (Fin 1)) (t : Time) :
+    EuclideanSpace ℝ (Fin 1) :=
+  - S.k • xₜ t
+  - S.γ • ∂ₜ xₜ t
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Same line. This definition also needs a doc-string

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 7]
```diff
@@ -63,195 +77,176 @@ References for the damped harmonic oscillator include:
...
+damped, and overdamped regimes. We also define the decay rate and the real frequencies
+that appear in the explicit solution formulas.
 
 -/
 
 /-- The discriminant that determines the damping regime. -/
 noncomputable def discriminant : ℝ := S.γ^2 - 4 * S.m * S.k
 
+/-- The exponential decay rate `γ / (2 * m)`. -/
+noncomputable def decay_rate : ℝ := S.γ / (2 * S.m)
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: `decayRate`

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 8]
```diff
@@ -261,6 +256,151 @@ def IsCriticallyDamped : Prop := S.discriminant = 0
 /-- The system is overdamped when γ² > 4mk. -/
 def IsOverdamped : Prop := S.discriminant > 0
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: `0 < S.discriminant` (Lean convention is that you always use lt and never gt)

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 9]
```diff
@@ -261,6 +256,151 @@ def IsCriticallyDamped : Prop := S.discriminant = 0
...
+
+/-- The relationship between the discriminant, decay rate, and natural angular frequency. -/
+lemma discriminant_eq_four_mul_m_sq_mul_decay_rate_sq_sub_ω_sq :
+    S.discriminant = 4 * S.m^2 * (S.decay_rate^2 - S.ω^2) := by
+  rw [discriminant, decay_rate, S.ω_sq]
+  field_simp [S.m_ne_zero]
+  ring
+
+/-- The decay rate is nonnegative. -/
+lemma decay_rate_nonneg : 0 ≤ S.decay_rate := by
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: `decayRate_nonneg` etc.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean [hunk 10]
```diff
@@ -261,6 +256,151 @@ def IsCriticallyDamped : Prop := S.discriminant = 0
...
+We show that the damped harmonic oscillator reduces to the undamped harmonic oscillator when the
+damping coefficient is zero. The underlying mass and spring data are already inherited from
+`HarmonicOscillator`; the proof argument records that this conversion is being used only in
+the zero-damping case.
+
+We also show that the equations of motion are equivalent in this case.
+-/
+
+/-- Convert a damped oscillator to its underlying undamped oscillator when `γ = 0`. -/
+def toUndamped (S : DampedHarmonicOscillator) (_hS : S.IsUndamped) :
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:434]: Need to fi this linter. Search Physlib for `@[nolint unusedArguments]` to see how to do this. Need to add 

```
set_option linter.unusedVariables false in
```
before the doc-string and 

```
@[nolint unusedArguments]
```
before the definition e.g. 

```
set_option linter.unusedVariables false in
/--
The velocity of a trajectory at a given time.
This is defined as the time derivative of the position function.
-/
@[nolint unusedArguments]
noncomputable
def velocity (s : FreeParticle) (q : Trajectory) (t : Time) : ℝ :=
  deriv q t
```

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 11]
```diff
@@ -0,0 +1,511 @@
...
+
+/-- The oscillatory part of the underdamped trajectory before exponential decay. -/
+noncomputable def underdampedBase
+    (IC : InitialConditions) : Time → EuclideanSpace ℝ (Fin 1) := fun t =>
+  cos (S.underdampedAngularFrequency * t) • IC.x₀
+    + (sin (S.underdampedAngularFrequency * t)/S.underdampedAngularFrequency) •
+      (IC.v₀ + S.decay_rate • IC.x₀)
+
+/-- Given initial conditions, the solution in the underdamped regime. -/
+noncomputable def trajectory_underdamped
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Would it be easier to just define one `trajectory` with an `if ... then ... else...` statement based on the damped regions? Also no underscores in definitions.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 12]
```diff
@@ -0,0 +1,511 @@
...
+/-- In the critically damped regime, `k = m * decay_rate^2`. -/
+lemma k_eq_m_mul_decay_rate_sq_of_criticallyDamped (hS : S.IsCriticallyDamped) :
+    S.k = S.m * S.decay_rate^2 := by
+  have hωa : S.ω = S.decay_rate := S.isCriticallyDamped_decay_rate hS
+  have hωsq : S.decay_rate ^ 2 = S.k / S.m := by
+    simpa [hωa] using S.ω_sq
+  field_simp [S.m_ne_zero] at hωsq
+  nlinarith
+
+private abbrev TrajectorySpace := EuclideanSpace ℝ (Fin 1)
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Not sure about this definition.Not sure what it is meant to represent.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean (hunk 11 above)
Comment (jstoobysmith) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Similarly it might be easier to do the same with `angularFrequency` and then define notation for that.

**Review by jstoobysmith — COMMENTED** [review]
This generally looks very good! some comments to make it better.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 1 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: I did this because you guys worked on the `HarmonicOscillator` and I copied a lot of stuff over. I still removed your names for now. Feel free to add them back in if you want.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 2 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:121]: done

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 3 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: done

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 5 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: done

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 6 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: done

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 7 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: done.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 8 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Ah, good to know, thx. I changed this and also changed some doc strings which previously used `>`.
Furthermore, I changed `lemma isUnderdamped_decayRate (hS : S.IsUnderdamped) : S.ω > S.decayRate` to `lemma isUnderdamped_decayRate (hS : S.IsUnderdamped) : S.decayRate < S.ω` for the same reason.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 9 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: all mentions of decay rate in `Basic.lean` and `Solution.lean` now use the new `decayRate`

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 4 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: This was already present in the previous version. It is currently unused, tho. I am not sure whether future functions / proofs might need it.

Comment (jstoobysmith) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: In this case, would you mind getting rid of it?

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: Thanks for being considerate here! I think the author lists are best kept to those who actually were involved in writing a given file though.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 4 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean]: agreed, done!

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean (hunk 10 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Basic.lean:434]: Good point, done!

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean (hunk 12 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Yes, you are right. I tried to shorten the trajectory lemmas once but didn't spot this old piece.
I deleted the abbrev.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean (hunk 11 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: This is now the only open question. I was afraid of pulling everything into one big trajectory. Let me try a version of this and you can decide which version you like better.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 13]
```diff
@@ -0,0 +1,510 @@
...
+  field_simp [S.m_ne_zero]
+
+/-- In the critically damped regime, `k = m * decayRate^2`. -/
+lemma k_eq_m_mul_decayRate_sq_of_criticallyDamped (hS : S.IsCriticallyDamped) :
+    S.k = S.m * S.decayRate^2 := by
+  have hωa : S.ω = S.decayRate := S.isCriticallyDamped_decayRate hS
+  have hωsq : S.decayRate ^ 2 = S.k / S.m := by
+    simpa [hωa] using S.ω_sq
+  field_simp [S.m_ne_zero] at hωsq
+  nlinarith
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: One thing I missed in my first look, maybe these should go in the `Basic.lean` file as they are not directly about the solutions.

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean (hunk 11 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Okay, I refactored the code (last commit) to get one trajectory:

```lean4
noncomputable def trajectory
    (IC : InitialConditions) : Time → EuclideanSpace ℝ (Fin 1) := by
  classical
  exact
    if S.IsUnderdamped then
      fun t : Time => exp (-S.decayRate * t) • S.underdampedBase IC t
    else if S.IsCriticallyDamped then
      fun t : Time => exp (-S.decayRate * t) • S.criticallyDampedBase IC t
    else
      fun t : Time => exp (-S.decayRate * t) • S.overdampedBase IC t
```

I did the same with the angular frequency:

```lean4
noncomputable def angularFrequency : ℝ := by
  classical
  exact
    if S.IsUnderdamped then
      sqrt (- S.discriminant) / (2 * S.m)
    else if S.IsCriticallyDamped then
      0
    else
      sqrt S.discriminant / (2 * S.m)
```

The rest of the proofs are still split into the regimes, i.e. `lemma trajectory_equationOfMotion_of_criticallyDamped`.

Let me know what you think!

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean (hunk 13 above)
Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: Yup, agreed. Moved it to Basic

File: Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean [hunk 14]
```diff
@@ -0,0 +1,542 @@
...
+  exact
+    if S.IsUnderdamped then
+      fun t : Time => exp (-S.decayRate * t) • S.underdampedBase IC t
+    else if S.IsCriticallyDamped then
+      fun t : Time => exp (-S.decayRate * t) • S.criticallyDampedBase IC t
+    else
+      fun t : Time => exp (-S.decayRate * t) • S.overdampedBase IC t
+
+/-- In the underdamped regime, the selected trajectory uses the trigonometric base. -/
+lemma trajectory_eq_underdamped (IC : InitialConditions) (hS : S.IsUnderdamped) :
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: `trajectory_eq_of_underdamped`

Comment (FloWsnr) [reply Physlib/ClassicalMechanics/DampedHarmonicOscillator/Solution.lean]: done

**Review by jstoobysmith — APPROVED** [review]
Many thanks - I have now approved it, and assuming it passes the linters, I will merge it shortly. Congrats on your first PR! Hopefully the first of many :).

**Comment by FloWsnr** [comment]
Amazing! Thank you for the kind help and comments!
